US08669234B2
The solution of 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (3.71 g, 13.4 mmol), NBS (2.39 g, 13.4 mmol), and AIBN (235 mg) in CCl4 (20 ml) was heated at 80° C. for 14 hours. The mixture was cooled to 25° C., and was filtered and washed with CCl4. The solution was concentrated under reduced pressure, and was diluted with EtOAc. The solution was washed with water and brine and was dried with Na2SO4. Concentration gave 3-Bromomethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (4.9 g).

reactant | 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 13.4 mmol, 3.71 g | COC(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C15H21BO4
reactant | NBS | 13.4 mmol, 2.39 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 235 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromomethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 4.9 g | COC(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)CBr)=O | C15H20BBrO4
